US07790709B2
Preparation of (E)-3-(2-Oxo-2,3-dihydro-oxazolo[4,5-b]pyridine-6-yl)acrylic acid hydrochloride
A solution of (E)-3-(2-oxo-2,3-dihydro-oxazolo[4,5-b]pyridine-6-yl)acrylic acid tert-butyl ester (274 mg, 1.04 mmol) in dichloromethane (5 mL) and trifluoroacetic acid (5 mL) was stirred for 30 min, then the solvents were removed in vacuo. The residue was suspended in anhydrous HCl (5 mL of a 4 M solution in 1,4-dioxane, 20 mmol) and the mixture was sonicated for 1 min. The resulting solid was collected by filtration, washed with diethyl ether and then dried in vacuo to give the title compound (194 mg, 77%) as a light brown solid: 1H NMR (300 MHz, DMSO-d6) δ 8.31 (s, 1H), 8.13 (s, 1H), 7.63 (d, J=16.0 Hz, 1H), 6.60 (d, J=16.0 Hz, 1H).

reactant | (E)-3-(2-oxo-2,3-dihydro-oxazolo[4,5-b]pyridine-6-yl)acrylic acid tert-butyl ester | 1.04 mmol, 274 mg | C(C)(C)(C)OC(\C=C\C=1C=C2C(=NC1)NC(O2)=O)=O | C13H14N2O4
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (E)-3-(2-Oxo-2,3-dihydro-oxazolo[4,5-b]pyridine-6-yl)acrylic acid hydrochloride | 194 mg, 77% | Cl.O=C1OC=2C(=NC=C(C2)/C=C/C(=O)O)N1 | InChI=1S/C9H6N2O4.ClH/c12-7(13)2-1-5-3-6-8(10-4-5)11-9(14)15-6;/h1-4H,(H,12,13)(H,10,11,14);1H/b2-1+;
